US07696234B2
[2-Fluoro-4-(pyridin-2-ylmethoxy)-phenyl]-[2-(S)-(2-(R)-methyl -pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone
The title compound is prepared in a manner substantially analogous to Procedure A from 2-Fluoro-4-(pyridin-2-ylmethoxy)-benzoic acid lithium salt and 2-(R)-Methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine dihydrochloride salt. MS (ES+) 398.3

reactant | 2-Fluoro-4-(pyridin-2-ylmethoxy)-benzoic acid lithium salt | [Li+].FC1=C(C(=O)[O-])C=CC(=C1)OCC1=NC=CC=C1
reactant | 2-(R)-Methyl-1-(2-(S)-pyrrolidinylmethyl)pyrrolidine dihydrochloride salt | Cl.Cl.C[C@H]1N(CCC1)C[C@H]1NCCC1
product | [2-Fluoro-4-(pyridin-2-ylmethoxy)-phenyl]-[2-(S)-(2-(R)-methyl -pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-methanone | FC1=C(C=CC(=C1)OCC1=NC=CC=C1)C(=O)N1[C@@H](CCC1)CN1[C@@H](CCC1)C | C23H28FN3O2
